*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Industry					
*					
*  Conductive Polymer Aluminum Solid Capacitor (OS-CON)					
*					
*  Parts No. 50SVPF68M					
*---------------------------------------------------------------					
*  Capacitance : 68 uF    Rated Voltage : 50 V					
*  ESR Max. : 20 mohm @100kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20 degC   DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	50SVPF68M	1	2		
R1	1	3	4.66E-03		
R2	3	4	1.21E-01		
R3	4	5	3.74E+01		
R4	5	6	2.21E+02		
R5	6	7	8.29E+02		
C1	3	8	5.30E-05		
C2	4	8	8.38E-06		
C3	5	8	1.08E-06		
C4	6	8	1.30E-06		
C5	7	8	1.49E-06		
R6	8	9	5.06E-03		
R7	9	10	1.12E-01		
R8	10	11	5.45E+00		
R9	11	12	3.95E+01		
R10	12	13	1.87E+02		
L1	9	2	6.13E-09		
L2	10	2	1.24E-07		
L3	11	2	7.59E-08		
L4	12	2	9.84E-08		
L5	13	2	1.00E-15		
.ENDS					
*$					
